US06642318B1
Bis(thiocarbonyl) disulfides masy be the starting material for other dithioate compounds. 2,2′-azobis(2-cyanopropane) is thermally decomposed in the presence of pyrrole N-thiocarbonyl disulfide to produce 2-cyanoprop-2-yl 1-pyrrolecarbodithioate. 2-Cyanobut-2-yl 1-pyrrolecarbodithioate is prepared by the same method using 2,2′-azobis(2-cyanobutane) and pyrrole N-thiocarbonyl disulfide.

reactant | 2,2′-azobis(2-cyanobutane) | N(=NC(C)(CC)C#N)C(C)(CC)C#N | C10H16N4
reactant | pyrrole N-thiocarbonyl disulfide | N1(C=CC=C1)C(=S)SSC(=S)N1C=CC=C1 | C10H8N2S4
product | 2-Cyanobut-2-yl 1-pyrrolecarbodithioate | N1(C=CC=C1)C(=S)SC(C)(CC)C#N | C10H12N2S2
